### PR TITLE
[Merged by Bors] - feat(ModelTheory/Equivalence): Implication of formulas modulo a theory

### PR DESCRIPTION
**Pull request by awainverse**
Defines `FirstOrder.Language.Theory.Implies`: `φ ⟹[T] ψ` indicates that `φ` implies `ψ` in models of `T`.
Relates `Theory.Implies` to `Theory.SemanticallyEquivalent`.
Proves lemmas that will set up a `BooleanAlgebra` instance on formulas modulo a theory

---

- [x] depends on: #16799 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/ModelTheory/Equivalence.lean [hunk 1]
```diff
@@ -34,6 +33,78 @@ variable {M : Type*} [Nonempty M] [L.Structure M] [M ⊨ T]
...
+lemma implies_sup_left {φ ψ : L.BoundedFormula α n} : φ ⟹[T] φ ⊔ ψ := fun M v xs => by
+  simp only [BoundedFormula.realize_imp, BoundedFormula.realize_sup]
+  exact Or.inl
+
+lemma implies_sup_right {φ ψ : L.BoundedFormula α n} : ψ ⟹[T] φ ⊔ ψ := fun M v xs => by
+  simp only [BoundedFormula.realize_imp, BoundedFormula.realize_sup]
+  exact Or.inr
+
+lemma sup_implies {φ ψ θ : L.BoundedFormula α n} (h₁ : φ ⟹[T] θ) (h₂ : ψ ⟹[T] θ) :
+    φ ⊔ ψ ⟹[T] θ := fun M v xs => by
```
[the remark this answers is not in the document]
Comment (awainverse) [reply Mathlib/ModelTheory/Equivalence.lean:77]: I'm not sure which iff you're looking for, sorry - what lemma are you looking for?

File: Mathlib/ModelTheory/Equivalence.lean [hunk 2]
```diff
@@ -43,9 +114,20 @@ def SemanticallyEquivalent (T : L.Theory) (φ ψ : L.BoundedFormula α n) : Prop
 @[inherit_doc FirstOrder.Language.Theory.SemanticallyEquivalent]
 scoped[FirstOrder] notation:25 φ " ⇔[" T "] " ψ => Language.Theory.SemanticallyEquivalent T φ ψ
 
+theorem semanticallyEquivalent_iff_implies_and_implies {φ ψ : L.BoundedFormula α n} :
+    (φ ⇔[T] ψ) ↔ (φ ⟹[T] ψ) ∧ (ψ ⟹[T] φ) := by
```
[the remark this answers is not in the document]
Comment (awainverse) [reply Mathlib/ModelTheory/Equivalence.lean:118]: I've just tried a range of precedences, and nothing seemed to work. Do you have a suggestion of something to change other than the number `25`?

File: Mathlib/ModelTheory/Equivalence.lean (hunk 1 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/ModelTheory/Equivalence.lean:75]: `(a sup b -> c) <-> (a -> c) and (b -> c)`

File: Mathlib/ModelTheory/Equivalence.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/ModelTheory/Equivalence.lean:116]: I'll try playing with precedences

File: Mathlib/ModelTheory/Equivalence.lean (hunk 1 above)
[the remark this answers is not in the document]
Comment (awainverse) [reply Mathlib/ModelTheory/Equivalence.lean:75]: Oh of course - I somehow convinced myself that you were looking for a `SemanticallyEquivalent` statement about `sup`.

[the remark this answers is not in the document]
Comment (awainverse) [reply Mathlib/ModelTheory/Equivalence.lean:75]: (I also added `implies_inf_iff`.)

**Comment by YaelDillies** [comment]
I don't quite like how the following square is looking:
`Implies`/`Imp` | `Language.Theory.Implies`
`Iff` | `Language.Theory.SemanticallyEquivalent`

What do you think of renaming the right column so that it looks more consistent? Here are a few suggestions (all in the `Language.Theory` namespace):
* `SemanticallyImplies`, `SemanticallyEquivalent`
* `SemanticImp`, `SemanticIff`
* `Imp`, `Iff`

**Comment by awainverse** [comment]
I agree that making these match makes sense - I think it should be down to the last two options, so the question is just whether to specify `Semantic`. The reason for doing this is because I hope that at some point, it would be good to have a first-order proof system, and in that case, there's a distinction between a theory modelling an implication/equivalence and the theory proving it. These turn out to be the same, of course, because of the completeness theorem, so it's just a question of which should be the _definition_ of `Theory.Imp` and `Theory.Iff`. At the moment, I'd say I over-futureproofed `SemanticallyEquivalent`, so probably this should just be `Imp` and `Iff`.

**Comment by YaelDillies** [comment]
I'll let you make the final call. It's easy enough to rename the predicate later (and probably we won't need deprecations since you are currently the sole downstream user of this material)

**Comment by awainverse** [comment]
I've finally gone and used the simplest possible choice on the names. Hopefully I've capitalized (or uncapitalized) the names of lemmas appropriately.

File: Mathlib/ModelTheory/Complexity.lean [hunk 3]
```diff
@@ -302,10 +302,10 @@ theorem IsQF.induction_on_inf_not {P : L.BoundedFormula α n → Prop} {φ : L.B
     P φ :=
   h.induction_on_sup_not hf ha
     (fun {φ₁ φ₂} h1 h2 =>
-      (hse (φ₁.sup_semanticallyEquivalent_not_inf_not φ₂)).2 (hnot (hinf (hnot h1) (hnot h2))))
+      (hse (φ₁.sup_iff_not_inf_not φ₂)).2 (hnot (hinf (hnot h1) (hnot h2))))
     (fun {_} => hnot) fun {_ _} => hse
 
-theorem semanticallyEquivalent_toPrenex (φ : L.BoundedFormula α n) :
+theorem Iff_toPrenex (φ : L.BoundedFormula α n) :
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Complexity.lean:308]:
```suggestion
theorem iff_toPrenex (φ : L.BoundedFormula α n) :
```

**Review by YaelDillies — COMMENTED** [review]
Technically, `Iff` already exists in the root namespace, so this should be protected. I think that should be fine this you only use that declaration through its notation?

**Review by YaelDillies — APPROVED** [review]
Let's go!

maintainer merge

File: Mathlib/ModelTheory/Equivalence.lean [hunk 4]
```diff
@@ -34,31 +33,129 @@ variable {M : Type*} [Nonempty M] [L.Structure M] [M ⊨ T]
...
+
+section Imp
+
+lemma bot_imp (φ : L.BoundedFormula α n) : ⊥ ⟹[T] φ := fun M v xs => by
+  simp only [BoundedFormula.realize_imp, BoundedFormula.realize_bot, false_implies]
+
+lemma imp_top (φ : L.BoundedFormula α n) : φ ⟹[T] ⊤ := fun M v xs => by
+  simp only [BoundedFormula.realize_imp, BoundedFormula.realize_top, implies_true]
+
+lemma imp_sup_left (φ ψ : L.BoundedFormula α n) : φ ⟹[T] φ ⊔ ψ := fun M v xs => by
```
Comment (b-mehta) [inline Mathlib/ModelTheory/Equivalence.lean:66]: I'd prefer to name this `sup_imp_left` in analogy with `sup_le_left` for orders

Comment (b-mehta) [reply Mathlib/ModelTheory/Equivalence.lean:66]: (and similar below)

File: Mathlib/ModelTheory/Equivalence.lean [hunk 5]
```diff
@@ -34,31 +33,129 @@ variable {M : Type*} [Nonempty M] [L.Structure M] [M ⊨ T]
...
+    φ ⊓ ∼φ ⟹[T] ⊥ := fun M v xs => by simp only [BoundedFormula.realize_imp,
+      BoundedFormula.realize_inf, BoundedFormula.realize_not, and_not_self,
+      BoundedFormula.realize_bot, imp_self]
+
+lemma top_imp_sup_not (φ : L.BoundedFormula α n) :
+    ⊤ ⟹[T] φ ⊔ ∼φ := fun M v xs => by
+    simp only [BoundedFormula.realize_imp,
+      BoundedFormula.realize_top, BoundedFormula.realize_sup, BoundedFormula.realize_not,
+      true_implies]
+    exact or_not
```
Comment (b-mehta) [inline Mathlib/ModelTheory/Equivalence.lean:112]:
```suggestion
    ⊤ ⟹[T] φ ⊔ ∼φ := fun M v xs => by
  simp only [BoundedFormula.realize_imp,
    BoundedFormula.realize_top, BoundedFormula.realize_sup, BoundedFormula.realize_not,
    true_implies]
  exact or_not
```

File: Mathlib/ModelTheory/Equivalence.lean [hunk 6]
```diff
@@ -34,31 +33,129 @@ variable {M : Type*} [Nonempty M] [L.Structure M] [M ⊨ T]
...
+
+lemma imp_inf_iff {φ ψ θ : L.BoundedFormula α n} :
+    (φ ⟹[T] ψ ⊓ θ) ↔ (φ ⟹[T] ψ) ∧ (φ ⟹[T] θ) :=
+  ⟨fun h => ⟨h.trans (inf_imp_left _ _), h.trans (inf_imp_right _ _)⟩,
+    fun ⟨h₁, h₂⟩ => imp_inf h₁ h₂⟩
+
+lemma inf_not_imp_bot (φ : L.BoundedFormula α n) :
+    φ ⊓ ∼φ ⟹[T] ⊥ := fun M v xs => by simp only [BoundedFormula.realize_imp,
+      BoundedFormula.realize_inf, BoundedFormula.realize_not, and_not_self,
+      BoundedFormula.realize_bot, imp_self]
```
Comment (b-mehta) [inline Mathlib/ModelTheory/Equivalence.lean:105]:
```suggestion
    φ ⊓ ∼φ ⟹[T] ⊥ := fun M v xs => by 
  simp only [BoundedFormula.realize_imp,
    BoundedFormula.realize_inf, BoundedFormula.realize_not, and_not_self,
    BoundedFormula.realize_bot, imp_self]
```

File: Mathlib/ModelTheory/Equivalence.lean [hunk 7]
```diff
@@ -34,31 +33,129 @@ variable {M : Type*} [Nonempty M] [L.Structure M] [M ⊨ T]
...
+    φ ⟹[T] ψ ⊓ θ := fun M v xs => by
+  simp only [BoundedFormula.realize_imp, BoundedFormula.realize_inf]
+  exact fun h => ⟨h₁ M v xs h, h₂ M v xs h⟩
+
+lemma imp_inf_iff {φ ψ θ : L.BoundedFormula α n} :
+    (φ ⟹[T] ψ ⊓ θ) ↔ (φ ⟹[T] ψ) ∧ (φ ⟹[T] θ) :=
+  ⟨fun h => ⟨h.trans (inf_imp_left _ _), h.trans (inf_imp_right _ _)⟩,
+    fun ⟨h₁, h₂⟩ => imp_inf h₁ h₂⟩
+
+lemma inf_not_imp_bot (φ : L.BoundedFormula α n) :
```
Comment (b-mehta) [inline Mathlib/ModelTheory/Equivalence.lean:102]: This one and the next are `iff` in general, right? It seems more sensible to just give that version, then this one should be easily derivable from it

File: Mathlib/ModelTheory/Equivalence.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/ModelTheory/Equivalence.lean:66]: You mean [`le_sup_left](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Lattice.html#le_sup_left)`?

Comment (b-mehta) [reply Mathlib/ModelTheory/Equivalence.lean:66]: oops lol

File: Mathlib/ModelTheory/Equivalence.lean (hunk 7 above)
Comment (awainverse) [reply Mathlib/ModelTheory/Equivalence.lean]: I've now made both of these `iff`s and adjusted #16801 accordingly.

**Comment by YaelDillies** [comment]
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
